US09315521B2
To a 0° C. solution of ethyl 3-oxopentanoate (5.0 mL, 34.7 mmol) in water (30 mL) was added bromine (1.8 mL, 35.0 mmol) via syringe pump (0.5 hour). The mixture was stirred at 0° C. for 0.5 hour. The solution was extracted with EtOAc (2×35 mL). The organic extracts were combined, dried over MgSO4, filtered, evaporated, and dried in vacuo, affording ethyl 2-bromo-3-oxopentanoate (7.3 g, 94% yield). The product was used without further purification.

reactant | ethyl 3-oxopentanoate | 34.7 mmol, 5.0 mL | O=C(CC(=O)OCC)CC | C7H12O3
reactant | bromine | 35.0 mmol, 1.8 mL | BrBr | Br2
solvent | water | 30 mL | O | H2O
product | ethyl 2-bromo-3-oxopentanoate | 7.3 g, 94% yield | BrC(C(=O)OCC)C(CC)=O | C7H11BrO3
